US04301280
Benzhydryl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate
To a stirred solution of benzhydryl α-(3-benzyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-α-(1-hydroxyethylidene)acetate (9.68 g.) in tetrahydrofuran (120 ml.) under a nitrogen atmosphere at 20° C. was added triethylamine (2.93 ml.) followed by diphenylphosphoryl chloride (4.35 ml.) After stirring for 3 hours, the reaction mixture was cooled to 5°-10° C., morpholine (3.75 ml.) was added and the mixture stirred for 2 hours at 5°-10° C. After cooling to -30° to -35° C., pyridine (1.62 ml.) was added followed by dropwise addition of bromine (1.00 ml.) over 10 minutes. The reaction mixture was stirred at -30° to -35° C. for 20 minutes and 5% hydrochloric acid (144 ml.) was added. After stirring at 20° C. for 1.5 hours the reaction mixture was extracted with ethyl acetate and the extract washed with water, dried with magnesium sulphate and evaporated to give a foam (10.3 g.) The foam (9.3 g.) was purified by column chromatography on silica gel (600 g.) with dichloromethane-acetone (20:1) as eluent to give 7.04 g. (78%) of the title compound as a foam. TLC (silica) Rf 0.55 (ethyl acetate). NMR δ CDCl3 3.13 (s, 2H), 3.57 (s, 2H), 4.88 (d, 1H, J=4 Hz), 3.57 (dd, 1H, J=4 and 9 Hz) and 6.66-7.5 (m, 17H).

reactant | benzhydryl α-(3-benzyl-7-oxo-4-thia-2,6-diazabicyclo(3,2,0)hept-2-en-6-yl)-α-(1-hydroxyethylidene)acetate | 9.68 g | C(C1=CC=CC=C1)C1=NC2C(N(C2S1)C(C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=C(C)O)=O | C28H24N2O4S
reactant | diphenylphosphoryl chloride | 4.35 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | morpholine | 3.75 ml | N1CCOCC1 | C4H9NO
reactant | bromine | 1.00 ml | BrBr | Br2
reactant | hydrochloric acid | 144 ml | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1.62 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 2.93 ml | C(C)N(CC)CC | C6H15N
product | Benzhydryl 7-phenylacetamido-3-hydroxy-3-cephem-4-carboxylate | 78% | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C28H24N2O5S
